US05078907
Preparation of Dihexyl Terephthalate
This compound was prepared by the procedure described for diethyl terephthalate. Typical reagent levels were as follows: terephthaloyl chloride (50.0g, 0.25 mole), 1-hexanol (60.0 g, 0.59 mole) and 100 ml of toluene. Product yield was 71 g (85%) and the material was used without further purification.

reactant | diethyl terephthalate | C(C1=CC=C(C(=O)OCC)C=C1)(=O)OCC | C12H14O4
reactant | terephthaloyl chloride | 0.25 mole, 50.0g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | 1-hexanol | 0.59 mole, 60.0 g | C(CCCCC)O | C6H14O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Dihexyl Terephthalate | C(C1=CC=C(C(=O)OCCCCCC)C=C1)(=O)OCCCCCC | C20H30O4
